US05496955
A process according to claim 1, further comprising the step of reacting the crude D-histidine tartrate with hydrochloric acid and methanol at reflux temperature to produce D-histidine methylester dihydrochloride.

reactant | D-histidine tartrate | C(=O)(O)C(O)C(O)C(=O)O.N[C@H](CC1=CNC=N1)C(=O)O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | D-histidine methylester dihydrochloride | Cl.Cl.COC([C@H](N)CC1=CNC=N1)=O | InChI=1S/C7H11N3O2.2ClH/c1-12-7(11)6(8)2-5-3-9-4-10-5;;/h3-4,6H,2,8H2,1H3,(H,9,10);2*1H/t6-;;/m1../s1
